US07081325B2
To propyleneglycolmethyletheracetate (PGMEA) (130 g) as an organic solvent were added poly(N,N-dimethylacryladmide/3,3-dimethoxypropene/acrolein) (3 g) obtained from Example 1, poly(methylmethacrylate/2-hydroxyethylmethacrylate/acrylic acid) (7 g) obtained from Example 2 and triphenylsulfonium triflate (0.05 g) as a photoacid generator. The resulting mixture was filtered with a 0.20 μm filter, thereby a disclosed photoresist composition.

reactant | propyleneglycolmethyletheracetate | 130 g | CC(COC)OC(=O)C | C6H12O3
reactant | 3,3-dimethoxypropene acrolein | COC(C=C)OC.C(=O)C=C
product | methylmethacrylate 2-hydroxyethylmethacrylate acrylic acid | COC(C(=C)C)=O.OCCOC(C(=C)C)=O.C(C=C)(=O)O | InChI=1S/C6H10O3.C5H8O2.C3H4O2/c1-5(2)6(8)9-4-3-7;1-4(2)5(6)7-3;1-2-3(4)5/h7H,1,3-4H2,2H3;1H2,2-3H3;2H,1H2,(H,4,5)
